US09388140B2
To a stirred suspension of 6-bromo-1H-benzimidazol-4-amine (10.27 g, 48.43 mmol) in DCM at 0° C. was added TEA (13.5 mL, 96.86 mmol), DMAP (592 mg, 4.84 mmol) and dropwise a solution of di-tert-butyl dicarbonate (11.63 g, 53.27 mmol, 1.1 eq) in DCM. After stirring for 1 h at 0° C., the clear solution is stirred for 72 h at rt. After evaporation, the product is triturated with ethanol and hexane to yield 14.89 g tert-butyl 4-amino-6-bromo-1H-benzimidazole-1-carboxylate (95.84%).

reactant | 6-bromo-1H-benzimidazol-4-amine | 48.43 mmol, 10.27 g | BrC=1C=C(C2=C(NC=N2)C1)N | C7H6BrN3
reactant | di-tert-butyl dicarbonate | 53.27 mmol, 11.63 g, 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 4.84 mmol, 592 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 4-amino-6-bromo-1H-benzimidazole-1-carboxylate | 14.89 g, 95.84% | NC1=CC(=CC=2N(C=NC21)C(=O)OC(C)(C)C)Br | C12H14BrN3O2
